US04252724
The acid chloride of 2-(2-chloro-4-trifluoromethylphenylamino)-3-methylbutanoic acid is reacted with 3-(4-fluorobenzyl)-pyrrolylmethyl alcohol in ether as in Example 1 to give 3-(4-fluorobenzyl)-pyrrolylmethyl 2-(2-chloro-4-trifluoromethylphenylamino)-3-methylbutanoate.

reactant | 2-(2-chloro-4-trifluoromethylphenylamino)-3-methylbutanoic acid | ClC1=C(C=CC(=C1)C(F)(F)F)NC(C(=O)O)C(C)C | C12H13ClF3NO2
reactant | 3-(4-fluorobenzyl)-pyrrolylmethyl alcohol | FC1=CC=C(CC2=C(NC=C2)CO)C=C1 | C12H12FNO
solvent | ether | CCOCC | C4H10O
product | 3-(4-fluorobenzyl)-pyrrolylmethyl 2-(2-chloro-4-trifluoromethylphenylamino)-3-methylbutanoate | ClC1=C(C=CC(=C1)C(F)(F)F)NC(C(=O)OCC=1NC=CC1CC1=CC=C(C=C1)F)C(C)C | C24H23ClF4N2O2
